US05260388
To a glass reaction vessel equipped with a stirrer, reflux condenser and a thermometer, 124 g (0.4 mole) of 3,3'-dinitro-4,4'-difluorobenzophenone, 1100 ml of a 80% aqueous ethanol solution and 280 g (5.0 mole) of iron powder were charged and the internal temperature was raised to 75° C. Successively, a solution containing 10.5 g of 36% hydrochloric acid in 124 ml of 80% ethanol was added dropwise and the reaction was further continued for 3 hours with stirring. After finishing the reaction, the reaction mixture was filtered at the same temperature and the filtrate was poured into 2 l of water. The precipitated crystal was filtered, washed with water and dried to obtain 90.5 g of crude crystals of 3,3'-diamino-4,4'-difluorobenzophenone. The crude crystal was mixed with 180 ml of water, 36% hydrochloric acid and activated carbon, and dissolved by heating. The solution was hot filtered. To the filtrate, 18 g of sodium chloride was added and dissolved. The solution thus obtained was gradually cooled to precipitate 3,3'-diamino-4,4'-difluorobenzophenone hydrochloride. The hydrochloride was filtered and neutralized in water with a 28% aqueous ammonia solution to obtain 82.3 g (83.0% yield) of 3,3'-diamino-4,4'-difluorobenzophenone. The purified product had purity of 99.1% by high performance liquid chromatography and a melting point of 130.8°-131.6° C.

reactant | 3,3'-dinitro-4,4'-difluorobenzophenone | 0.4 mole, 124 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC(=C(C=C2)F)[N+](=O)[O-])C=CC1F | C13H6F2N2O5
reactant | hydrochloric acid | 10.5 g | Cl | ClH
reactant | water | 180 ml | O | H2O
reactant | sodium chloride | 18 g | [Cl-].[Na+]
solvent | ethanol | 124 ml | C(C)O | C2H6O
catalyst | iron | 5.0 mole, 280 g | [Fe] | Fe
product | 3,3'-diamino-4,4'-difluorobenzophenone | 82.3 g, 83.0% yield | NC=1C=C(C(=O)C2=CC(=C(C=C2)F)N)C=CC1F | C13H10F2N2O
